US08133909B2
N-(6-Chloro-pyridin-3-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
In analogy to the procedure described for the synthesis example 43 (step 2), the title compound N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide (MS m/e: 433.2 [M+H]+) was prepared from N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-acetamide and 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene.

reactant | N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-acetamide | ClC1=CC=C(C=N1)NC(C(C1=CC=CC=C1)=O)=O | C13H9ClN2O2
reactant | 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene | BrCCC1=CC=C(C=C1)C(F)(F)F | C9H8BrF3
product | N-(6-chloro-pyridin-3-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | ClC1=CC=C(C=N1)N(C(C(C1=CC=CC=C1)=O)=O)CCC1=CC=C(C=C1)C(F)(F)F | C22H16ClF3N2O2
